US05817690
1-(2-Chloroethoxy)-4-chloro-3-nitrobenzene
To a 500 mL 3-neck round-bottom flask was added 4-chloro-3-nitro-phenol (10 g, 0.058 mol), potassium carbonate (20 g, 0.14 mol), bromochloroethane (34.5 g, 0.24 mol) and 2-butanone (200 mL). The mixture was mechanically stirred and heated to reflux for 20 hours under nitrogen then allowed to cool to room temperature and the solids were filtered. The solvent was evaporated under vacuum and the oil dissolved in diethyl ether (300 mL) and washed with 10% sodium hydroxide. The organic layer was dried over anhydrous magnesium sulfate, filtered and the solvent removed under vacuum. The product was dissolved in 1:1 methylene chloride-hexanes and filtered through a short pad silica. Upon concentration and standing 12.9 g (94.8.% %) of light yellow crystalline solid was afforded: mp 46°-48° C.; MS EI m/e 235, 237, 239 (M+); 1H NMR (400 MHz, DMSO-d6) δ 3.95 (t, 2H, J=5.2 Hz), 4.36 (t, 2H, J=5.2 Hz), 7.32 (dd, 1H, J=3.2, J=8.9 Hz), 7.66, (d, 1H, J=9 Hz), 7.69, (d, 1H, J=3.2 Hz).

reactant | 4-chloro-3-nitro-phenol | 0.058 mol, 10 g | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | potassium carbonate | 0.14 mol, 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromochloroethane | 0.24 mol, 34.5 g | BrC(C)Cl | C2H4BrCl
solvent | 2-butanone | 200 mL | CC(CC)=O | C4H8O
product | 1-(2-Chloroethoxy)-4-chloro-3-nitrobenzene | ClCCOC1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C8H7Cl2NO3
